US06235787B1
0.50 g of (E)-2(R)-[1(S)-(tertbutoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide and 0.12 ml of pyridine were dissolved in 10 ml of dichloromethane and cooled to 0° C. under nitrogen. 0.12 ml of methyl chloroformate and a few crystals of 4-dimethylaminopyridine were added in succession and the mixture was left to come to room temperature and then stirred for 1 hour. The mixture was diluted with dichloromethane and then washed in succession with 5% aqueous sodium hydrogen carbonate solution, water, 2M aqueous hydrochloric acid and water and then dried over magnesium sulphate. The solvent was evaporated to give 0.54 g of methyl (E)-3-[2(R)-[1(S)-(tertbutoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvaleryl]-2-isobutylcarbazate in the form of a white foam.

reactant | (E)-2(R)-[1(S)-(tertbutoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.50 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C25H40N2O3
reactant | pyridine | 0.12 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 0.12 ml | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl (E)-3-[2(R)-[1(S)-(tertbutoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvaleryl]-2-isobutylcarbazate | 0.54 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(=O)OC)CC(C)C)CC(C)C | C27H42N2O5
